US05861510
To a solution of 3-amino-2-[carboxymethyl-(4-methoxybenzenesulfonyl)-amino]-propionic acid methyl ester trfluoracetic acid salt (2.11 grams, 6.1 mmol) in methylene chloride (5 ml) is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.76 grams, 9.2 mmol) and triethyamine (3.4 ml, 24.4 mmol). The resulting mixture is stirred overnight, diluted with ethyl acetate and washed with 1N hydrochlori acid. The organic layer is dried (sodium sulfate), filtered and concentrated. The crude product is purified by silica gel chromatography (elution with ethyl acetate) to provide 1-(4-methoxybenzenesulfonyl)-5-oxo-piperazine-2-carboxylic acid methyl ester.

reactant | 3-amino-2-[carboxymethyl-(4-methoxybenzenesulfonyl)-amino]-propionic acid methyl ester | COC(C(CN)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC(=O)O)=O | C13H18N2O7S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 9.2 mmol, 1.76 grams | Cl.CN(CCCN=C=NCC)C
reactant | triethyamine | 24.4 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxybenzenesulfonyl)-5-oxo-piperazine-2-carboxylic acid methyl ester | COC(=O)C1N(CC(NC1)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C13H16N2O6S
